US05914349
N,N'-Bis-((R)-1-indanyl)succinamide
This was prepared by the same procedure as in Example 73 starting from (R)-1-aminoindan (8.02 g, 60 mmole) and succinoyl chloride (2.32 g, 14 mmole), to give the white product, (1.30 g, 26.7%). Melting point: 266-9° C.

reactant | (R)-1-aminoindan | 60 mmole, 8.02 g | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
reactant | succinoyl chloride | 14 mmole, 2.32 g | C(CCC(=O)Cl)(=O)Cl | C4H4Cl2O2
product | N,N'-Bis-((R)-1-indanyl)succinamide | [C@H]1(CCC2=CC=CC=C12)NC(CCC(=O)N[C@@H]1CCC2=CC=CC=C12)=O | C22H24N2O2
